US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3-fluoropyridine (89 mg, 0.28 mmol) as described in Example 7 part g), affording 5-[4-fluoro-3-(3-fluoropyridin-4-yl)phenyl]-2-trifluoromethyl[1,8]naphthyridine (33 mg, 40%). δH (360 MHz, CDCl3) 7.43-7.49 (2H, m), 7.58-7.61 (3H, m), 7.86 (1H, d, J 8.8), 8.55 (2H, dd, J 6.0 and 2.1), 8.63 (1H, d, J 1.8), 9.30 (1H, d, J 4.2). m/z (ES+) 388 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3-fluoropyridine | 0.28 mmol, 89 mg | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NC=C1)F | C17H18BF2NO2
product | 5-[4-fluoro-3-(3-fluoropyridin-4-yl)phenyl]-2-trifluoromethyl[1,8]naphthyridine | 33 mg, 40% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C1=C(C=NC=C1)F | C20H10F5N3
